US06486333B1
Synthesis of N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(dodecanoylamino)propyl)ammonium chloride
A 22.76 g (0.080 mol) portion of N-dodecanoyl-N′,N′-dimethyl-1,3-diaminopropane and 120 ml of diethyl ether were put into a flask, and 18.46 g (0.080 mol) of geranyl chloroacetate was added thereto at 25° C. spending 5 minutes. The reaction mixture was stirred at 25° C. for 24 hours, and disappearance of the most part of chloroacetate was confirmed by 1H-NMR. Next, the reaction mixture was slowly added dropwise to 600 ml of hexane which was ice-cooled and vigorously stirred, spending 10 minutes, to effect precipitation of the product as a white solid. Thereafter, in the same manner as described in Inventive Example 1, the title compound (to be referred to as betaine ester (3) hereinafter) was obtained as a light yellow viscous oil. Yield 38.50 g (0.0747 mol; yield 93.4%).

reactant | N-dodecanoyl-N′,N′-dimethyl-1,3-diaminopropane | C(CCCCCCCCCCC)(=O)NCCCN(C)C | C17H36N2O
reactant | diethyl ether | 120 ml | C(C)OCC | C4H10O
reactant | geranyl chloroacetate | 0.080 mol, 18.46 g | ClCC(=O)OC\C=C(/C)\CCC=C(C)C | C12H19ClO2
reactant | chloroacetate | ClCC(=O)[O-]
solvent | hexane | 600 ml | CCCCCC | C6H14
product | N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(dodecanoylamino)propyl)ammonium chloride | yield 93.4% | [Cl-].C[N+](CCCNC(CCCCCCCCCCC)=O)(CC(=O)OC\C=C(/C)\CCC=C(C)C)C | InChI=1S/C29H54N2O3.ClH/c1-7-8-9-10-11-12-13-14-15-20-28(32)30-22-17-23-31(5,6)25-29(33)34-24-21-27(4)19-16-18-26(2)3;/h18,21H,7-17,19-20,22-25H2,1-6H3;1H/b27-21+;
